US08357679B2
To a stirred solution of (R)-tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate (231 mg, 1.07 mmol), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (400 mg, 1.19 mmol) and sodium iodide (18 mg, 0.12 mmol) in acetonitrile (10 mL) was added potassium carbonate (655 mg, 4.75 mmol). The reaction mixture was stirred at room temperature for 3 days, before being diluted with dichloromethane (10 mL), filtered through cotton wool and concentrated under reduced pressure. The residue was purified by flash column chromatography (eluting with dichloromethane to 10% methanol in dichloromethane) to afford the intermediate (R)-tert-butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-3-(hydroxymethyl)piperazine-1-carboxylate (250 mg, 0.53 mmol). To a stirred solution of (R)-tert-butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-3-(hydroxymethyl)piperazine-1-carboxylate (220 mg, 0.466 mmol) in dichloromethane (3 mL), was added trifluoroacetic acid (3 mL, 38.3 mmol). The reaction mixture was stirred at room temperature for 5 hours before being purified directly by SCX chromatography, eluting with 2N ammonia in methanol solution to afford the title compound (165 mg). MS (ESI) m/z 373.3 [M+H]+

reactant | (R)-tert-butyl 3-(hydroxymethyl)piperazine-1-carboxylate | 1.07 mmol, 231 mg | OC[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O3
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 1.19 mmol, 400 mg | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | sodium iodide | 0.12 mmol, 18 mg | [I-].[Na+]
reactant | potassium carbonate | 4.75 mmol, 655 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-tert-butyl 4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-3-(hydroxymethyl)piperazine-1-carboxylate | 0.53 mmol, 250 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2[C@H](CN(CC2)C(=O)OC(C)(C)C)CO)C=C1)(F)F | C20H26F6N2O4
